US05246810
Synthesis of N,N'-bis-(2,6-diisopropylphenyl)-N"-(4-bromomethylphenyl) methylguanidine (Compound Example 9)
11.4 g (0.03 mole) of N,N'-bis-(2,6-diisopropylphenyl) guanidine, 8.7 g (0.03 mole) of α,α-dibromo-p-xylene and 2.1 g (0.015 mole) of anhydrous potassium carbonate were added to 50 ml of toluene. The thus-formed mixture was then refluxed under heating for 10 hours. After the mixture had been allowed to cool, the insoluble substance was removed by filtration. The thus-obtained filtrate was washed with water and the concentrated for the purpose of recovering the solvent to obtain a slightly brown powder. The powder was then recrystallized from acetone to obtain 6.6 g of white powder.

reactant | N,N'-bis-(2,6-diisopropylphenyl) guanidine | 0.03 mole, 11.4 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=N)NC1=C(C=CC=C1C(C)C)C(C)C | C25H37N3
reactant | α,α-dibromo-p-xylene | 0.03 mole, 8.7 g | BrC(C1=CC=C(C=C1)C)Br | C8H8Br2
reactant | potassium carbonate | 0.015 mole, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-bis-(2,6-diisopropylphenyl)-N"-(4-bromomethylphenyl) methylguanidine | 6.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=NCC1=CC=C(C=C1)CBr)NC1=C(C=CC=C1C(C)C)C(C)C | C33H44BrN3
